.Subckt ADA4805 100 101 102 103 104 106
* ADA4805 SPICE Macro-model
* Function: Amplifier
*
* Revision History:
* Rev. 2.0 Jul 2014 -BP
* Copyright 2014 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spicemodels/license
* for License Statement. Use of this model indicates your acceptance
* of the terms and provisions in the License Staement.
*
* Tested on MultiSim, SiMetrix(NGSpice), PSICE
*
* Not modeled: Distortion, PSRR, Overload recovery, Slew Rate Enhancment,
*                       ShutDown Turn On/Turn Off time
*
* Parameters modeled include: 
*   Vos, Ibias, Input CM limits and Typ output voltge swing over full supply range, CMRR,
*   Open Loop Gain & Phase, Slew Rate, Output current limits, Voltage & Current Noise over temp,
*   Capacitive load drive, Quiescent and dynamic supply currents,
*   Shut Down pin functionality, Single supply & offset supply functionality.
*
* Node Assignments
*               Non-Inverting Input         
*                |  Inverting Input
*                |   |   Positive supply
*                |   |   |   Negative supply
*                |   |   |   |   Output                      
*                |   |   |   |   |   ShutDown BAR
*                |   |   |   |   |   |    
*Subckt ADA4805 100 101 102 103 104 106 
*#ASSOC Category="Op-Amps" symbol=opamp_6_pd_bar
*
***Power Supplies***
Ibias    102    103    dc    7.4e-6
DzPS    98    102    diode
Iquies    102    98    dc    562.6e-6
S1    98    103    106    113    Switch
R1    102    99    Rideal    1e7
R2    99    103    Rideal    1e7
e1    111    110    102    110    1
e2    110    112    110    103    1
e3    110    0    99    0    1
*
*
***Inputs***
S2    1    100    106    113    Switch
S3    9    101    106    113    Switch
VOS    1    2    dc    9e-6
IbiasP    110    2    dc    470e-9
IbiasN    110    9    dc    470e-9
RinCMP    110    2    Rideal    5e7
RinCMN    9    110    Rideal    5e7
CinCMP    110    2    1e-15
CinCMN    9    110    1e-15
IOS    9    2    dc    4e-10
RinDiff    9    2    Rideal    260e3
CinDiff    9    2    1e-012
*
*
***Non-Inverting Input with Clamp***
g1    3    110    110    2    0.001
RInP    3    110    Rideal    1e3
RX1    40    3    Rideal    0.001
DInP    40    41    diode
DInN    42    40    diode
VinP    111    41    dc    1.55
VinN    42    112    dc    0.45
*
*
***Vnoise***
hVn    6    5    Vmeas1    707.1067812
Vmeas1    20    110    DC    0
Vvn    21    110    dc    0.65
Dvn    21    20    DVnoisy
hVn1    6    7    Vmeas2    707.1067812
Vmeas2    22    110    DC    0
Vvn1    23    110    dc    0.65
Dvn1    23    22    DVnoisy
*
*
***Inoise***
FnIN    9    110    Vmeas3    0.70710678
Vmeas3    51    110    dc    0
VnIN    50    110    dc    0.65
DnIN    50    51    DINnoisy
FnIN1    110    9    Vmeas4    0.70710678
Vmeas4    53    110    dc    0
VnIN1    52    110    dc    0.65
DnIN1    52    53    DINnoisy
*
FnIP    2    110    Vmeas5    0.70710678
Vmeas5    31    110    dc    0
VnIP    30    110    dc    0.65
DnIP    30    31    DIPnoisy
FnIP1    110    2    Vmeas6    0.70710678
Vmeas6    33    110    dc    0
VnIP1    32    110    dc    0.65
DnIP1    32    33    DIPnoisy
*
*
***CMRR***
RcmrrP    3    10    Rideal    1e7
RcmrrN    10    9    Rideal    1e7
g10    11    110    10    110    6e-11
Lcmrr    11    12    5e-3
Rcmrr    12    110    Rideal    1E3
e4    5    3    11    110    1
*
*
***Power Down***
VPD    110    80    dc    0.8
VPD1    81    0    dc    0.4
RPD    110    106    Rideal    5.4e6
ePD    80    113    82    0    1
RDP1    82    0    Rideal    1e3
CPD    82    0    1e-10
S5    81    82    106    113    Switch
*
*
***Feedback Pin***
*RF    105    104    Rideal    0.001
*
*
***VFB Stage***
g200    200    110    7    9    1
R200    200    110    Rideal    250
DzSlewP    201    200    DzSlewP
DzSlewN    201    110    DzSlewN
*
*
***1st Pole***
g210    210    110    200    110    928.1e-9
R210    210    110    Rideal    1.0827e9
C210    210    110    1e-012
*
*
***Output Voltage Clamp-1***
RX2    60    210    Rideal    0.001
DzVoutP    61    60    DzVoutP
DzVoutN    60    62    DzVoutN
DVoutP    61    63    diode
DVoutN    64    62    diode
VoutP    65    63    dc    5.1
VoutN    64    66    dc    5.1
e60    65    110    111    110    1.05
e61    66    110    112    110    1.05
*
*
*** 11 frequency stages ***
g220    220    110    210    110    0.001
R220    220    110    Rideal    1000
C220    220    110    0.9947e-12
*
g230    230    110    220    110    0.001
R230    230    110    Rideal    1000
C230    230    110    0.7579e-12
*
g240    240    110    230    110    0.001
R240    240    110    Rideal    1000
C240    240    110    0.6366e-12
*
g245    245    110    240    110    0.001
R245    245    110    Rideal    1000
C245    245    110    0.6121e-12
*
g250    250    110    245    110    0.001
R250    250    110    Rideal    1000
C250    250    110    0.6121e-12
*
g255    255    110    250    110    0.001
R255    255    110    Rideal    1000
C255    255    110    1e-15
*
g260    260    110    255    110    0.001
R260    260    110    Rideal    1000
C260    260    110    1e-15
*
g265    265    110    260    110    0.001
R265    265    110    Rideal    1000
C265    265    110    1e-15
*
g270    270    110    265    110    0.001
R270    270    110    Rideal    1000
C270    270    110    1e-15
*
e280    280    110    270    110    1
R280    280    285    Rideal    1
L280    285    281    1e-12
C280    281    282    1e-15
R281    282    110    Rideal    1e3
*
e290    290    110    285    110    1
R290    290    292    Rideal    10
L290    290    291    3.36e-9
C290    291    292    227.4e-12
R291    292    110    Rideal    3.3545
e295    295    110    292    110    3.9811
*
*
***Output Stage***
g300    300    110    295    110    0.001
R300    300    110    Rideal    1000
e301    301    110    300    110    1
Rout    301    302    Rideal    50
Lout    302    310    1e-009
Cout    310    110    6e-012
*
*
***Output Current Limit***
VIoutP    71    310    dc    3.65
VIoutN    310    72    dc    2.97
DIoutP    70    71    diode
DIoutN    72    70    diode
Rx3    70    300    Rideal    0.001
*
*
***Output Clamp-2***
VoutP1    111    73    dc    0.71
VoutN1    74    112    dc    0.71
DVoutP1    75    73    diode
DVoutN1    74    75    diode
RX4    75    310    Rideal    0.001
*
*
***Supply Currents***
FIoVcc    314    110    Vmeas8    1
Vmeas8    310    311    DC    0
R314    110    314    Rideal    1e9
DzOVcc    110    314    diode
DOVcc    102    314    diode
RX5    311    312    Rideal    0.001
FIoVee    315    110    Vmeas9    1
Vmeas9    312    313    DC    0
R315    315    110    Rideal    1e9
DzOVee    315    110    diode
DOVee    315    103    diode
*
*
***Output Switch***
S4    104    313    106    113    Switch
*
*
*** Common models***
.model    diode    d(bv=100)
.model    Switch    vswitch(Von=0.401,Voff=0.399,ron=0.001,roff=1e6)
.model    DzVoutP    D(BV=4.3)
.model    DzVoutN    D(BV=4.3)
.model    DzSlewP    D(BV=181.24)
.model    DzSlewN D(BV=181.24)
.model    DVnoisy    D(IS=1.03e-015 KF=8.94e-018)
.model    DINnoisy    D(IS=1.86e-017 KF=9.41e-017)
.model    DIPnoisy    D(IS=1.86e-017 KF=9.41e-017)
.model    Rideal    res(T_ABS=-273)
*
.ends ADA4805